US07671080B2
3-Iodobenzylalcohol (5.17 g, 21.0 mmol), imidazole (1.73 g, 25.2 mmol), potassium carbonate (3.78 g, 27.3 mmol), copper (0) powder (275 mg, 4.33 mmol) and potassium fluoride (260 mg, 4.44 mmol) in DMF (30 ml) were refluxed at 175° C. for 6 h. The reaction was filtered, the solid washed with DCM and washing and filtrate concentrated. Purification by silica chromatography using DCM followed by DCM:MeOH (15:1 then 10:1) yielded (3-imidazol-1-yl-phenyl)-methanol as an orange oil (3.17 g, 72%).

reactant | 3-Iodobenzylalcohol | 21.0 mmol, 5.17 g | IC=1C=C(CO)C=CC1 | C7H7IO
reactant | imidazole | 25.2 mmol, 1.73 g | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 27.3 mmol, 3.78 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium fluoride | 4.44 mmol, 260 mg | [F-].[K+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
catalyst | copper (0) | 4.33 mmol, 275 mg | [Cu] | Cu
product | (3-imidazol-1-yl-phenyl)-methanol | 3.17 g, 72% | N1(C=NC=C1)C=1C=C(C=CC1)CO | C10H10N2O
